Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
blurred/double vision
 
Major Surgical or Invasive Procedure:
Lumbar puncture 
EMG
Tensilon test

 
History of Present Illness:
___ yo female with PMHx significant for depression, bipolar 
disorder, and anxiety, who presented with blurred and double 
vision. She had been at work when she noted some blurred vision. 
She was looking at her computer screen and noted that the words 
looked like "indescript gray lines".  When she closed her eyes 
and rested them momentarily, she noticed she was able to see the 
words on the screen again. Her vision was worse when looking to 
the right or left, and also when she looked at objects further 
away. The visual changes were not better or worse with head 
movements or positional changes. She denied any color changes, 
floaters, or pain with eye movements. 

She also noted a frontal headache (bilateral, burning in 
character) which she thought was secondary to her visual 
disturbances. She does not have a history of prior episodes of 
headache or visual changes. 

Given her new symptoms, she left work and went to her 
psychiatrist as she thought this might be a side effect of her 
new psychiatric medication, Viibryd.  Of note, this medication 
had caused her to have transient thigh tingling ___ hour 
duration after administration) and she thought this may be 
related. Her psychiatrist noted some abnormality in her gaze and 
brought her to the ED suspecting a neurologic issue.

On neuro ROS, the pt denies dysarthria, dysphagia, 
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies 
difficulties producing or comprehending speech.  Denies focal 
weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
  
On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies vomiting, diarrhea, constipation or 
abdominal pain.  No recent change in bowel or bladder habits.  
No dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
Depression (3x psych hospitalizations)
Bipolar disorder
Generalized anxiety disorder
Borderline personality disorder
 
Social History:
___
Family History:
Significant "thyroid disease" in her father's side of the 
family. Unable to further specify. No other history of 
autoimmune disease. No history of brain tumor, MS, stroke. 
Strong family history of T2DM. 
 
Physical Exam:
On admission:
Vitals:
 T= ___, BP= 124/75, HR= 84, RR= 18, SaO2= 100%
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, MMM
 Neck: Supple, no nuchal rigidity.
 Pulmonary: CTABL
 Cardiac: RRR, no murmurs
 Abdomen: soft, nontender, nondistended
 Extremities: no edema, pulses palpated
 Skin: no rashes or lesions noted.
  
 Neurologic:
 -Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension.  Normal prosody.  There were no paraphasic
errors.  Pt. was able to name both high and low frequency
objects.  Speech was not dysarthric.  Able to follow both 
midline
and appendicular commands.  Attentive, able to name ___ backward
without difficulty.  There was no evidence of neglect.

-Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3.5 to 2.5mm, both directly and consentually; 
sluggish
and with hippus bilaterally.  VFF to confrontation. Funduscopic
exam revealed no papilledema or disc pallor on right side. Left
disc unable to be visualized. Visual acuity ___ to finger
counting. Red color appears darker in left eye but no
desaturation.
 III, IV, VI: In primary gaze, left eye is esodeviated. Unable 
to
bury sclera in either eye with abduction. Other eye movements
full. No nystagmus. No ptosis. Has double vision in primary, up
and down gaze. Double vision resolves with far lateral gaze in
either direction. Unclear if double vision is worse with near or
far vision. Cover-uncover test is equivocal but suggests that
left eye is more severely involved.
 V: Facial sensation intact to light touch in all distributions
VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

 -Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___ 
 L  ___   ___  ___   5   5    5     5   
 R  ___   ___  ___   5   5    5     5   
  
 -DTRs:
     Bi  Tri  ___  Pat  Ach
 L  tr    2     2     2    2
 R   2    2     2     2    2

- Plantar response was flexor bilaterally.
 - Pectoralis Jerk was absent, and Crossed Adductors are absent. 

  
 -Sensory: No deficits to light touch, pinprick, proprioception,
cold, vibration (20 sec in each great toe) throughout. No
extinction to DSS.

-Coordination: No intention tremor noted. No dysmetria on FNF or
HKS bilaterally.

-Gait: not tested.

Upon discharge: 

 General: Awake, cooperative, NAD.
 HEENT: NC/AT, MMM
 Neck: Supple, no nuchal rigidity.
 Pulmonary: no increased WOB
 Cardiac: no cyanosis
 Abdomen: soft, nondistended
 Extremities: no edema
 Skin: no rashes or lesions appreciated
  
 Neurologic:
 -Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty. Language is fluent with intact repetition
and comprehension. Normal prosody. There were no paraphasic
errors. Speech was not dysarthric.  Able to follow both midline
and appendicular commands. Attentive. There was no evidence of 
neglect.

-Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm, both directly and consensually. VFF to 
confrontation with glasses in place. 
 III, IV, VI: In primary gaze, left eye in esodeviated to 
variable degrees (after examination of EOMI is notably more 
esodeviated). Unable to
bury sclera in either eye with abduction, more with left eye 
than right. With sustained lateral gaze this becomes more 
prominent (abducting eye drifts medially). With sustained upgaze 
left eye in particular becomes more esodeviated and drifts 
slightly downward. Mild ptosis. Has double vision in primary, up 
and down gaze which is brought out and with spreading on 
sustained gaze.  
 V: Facial sensation intact to light touch in all distributions
VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

 -Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted. Strength grossly intact with patient moving all 
extremities spontaneously and symmetrically, at least 
antigravity.  
  

-Coordination: No intention tremor noted. No dysmetria on FNF 
bilaterally (but takes some effort given patient with diplopia).

-Gait: Deferred.
 
Pertinent Results:
Labs:
___ 07:20PM   TSH-1.1
___ 07:20PM   cTropnT-<0.01
___ 07:20PM   ALT(SGPT)-34 AST(SGOT)-45* ALK PHOS-68 TOT 
BILI-0.3
___ 09:20PM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-5
___ 09:20PM URINE  UCG-NEGATIVE
___ 09:20PM URINE  HOURS-RANDOM
___ 05:10AM   PLT COUNT-245
___ 05:10AM   CALCIUM-9.3 PHOSPHATE-3.6 MAGNESIUM-2.0
___ 05:10AM   GLUCOSE-122* UREA N-8 CREAT-0.8 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-30 ANION GAP

Imaging:

CT Chest: ___ 
Soft tissue density structure in the anterior mediastinum, 
likely representing a thymoma.  Small tracheal diverticulum, no 
other abnormalities. 

MRI Head: ___
1.  Study is mildly degraded by motion. 
2.  No acute intracranial abnormality, with no evidence of 
infarct. 
3. Patent cortical veins and dural venous sinuses, without 
evidence of 
thrombosis. 

CXR:  ___
No acute cardiopulmonary process. 

CTA Head w/ and w/o contrast: ___
1. No acute intracranial abnormality. 
2. Patent intracranial neck vasculature without occlusion, 
dissection, 
significant stenosis, or aneurysm. 
3. Prominent adenoid, palatine, and lingual tonsils and 
prominent cervical 
lymph nodes, which may be reactive.  Correlate with signs and 
symptoms of a systemic infectious or inflammatory process. 
4. 2 mm right upper lobe pulmonary nodule.  ___ 
recommendations suggest no further follow-up in low risk 
patients, 12 month follow-up in high-risk patients. 
 

Procedures: 
Lumbar Puncture 
___ 12:00AM CEREBROSPINAL FLUID (CSF)  PROTEIN-23 
GLUCOSE-60
___ 12:00AM CEREBROSPINAL FLUID (CSF)  WBC-1 RBC-1* POLYS-0 
___ MONOS-9

EMG: 
  
There is no electrophysiologic evidence for a disorder or 
neuromuscular 
transmission, as can be seen in myasthenia ___. However, the 
performance of single-fiber electromyography on a 
clinically-strong muscle (i.e. frontalis) does limit the 
diagnostic sensitivity of the test. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a past medical history 
significant for depression who presented with a sudden onset of 
blurred/double vision and frontal headache.  After an exam 
showed bilateral cranial nerve 6 deficits, we pursued extensive 
head imaging including MRA, MRV, MRI, non-contrast head CT, CTA 
head and neck, which were all unrevealing for mass lesions or 
vascular injury (stroke, aneurysms, thromboses). 

Further, she underwent a lumbar puncture which demonstrated 
normal opening pressure and normal cytology. On exam on the 
morning of admission to the Neurology service, she was found to 
have a myasthenic reaction to vertical and horizontal gaze. At 
this point, we pursued a workup for myasthenia ___, including 
a tensilon test which resulted in marked improvement of 
diplopia, and a CT of the chest which exhibited a anterior 
mediastinal mass concerning for thymoma. Thoracic surgery was 
consulted and discussed VATS thymectomy with the patient. 

She also had EMG testing (specifically of the frontalis muscle) 
which did not show any electrophysiologic evidence for a 
disorder or neuromuscular transmission, as can be seen in 
myasthenia ___. However, the performance of single-fiber 
electromyography on a clinically-strong muscle (i.e. frontalis) 
does limit the diagnostic sensitivity of the test. This test did 
not test the ocular muscles. 

Given these findings, Neurology team started patient on a course 
of steroids (10 mg, Day 1: ___, with plan for uptitration, 
as below, to goal dose 60 mg daily). She was given this 
uptitration plan to avoid any potential for clinical worsening 
which may be associated with steroid initiation at high doses in 
myasthenic patients. She will be treated with steroids in order 
to control her symptoms, as she will need to be medically 
optimized prior to her thymectomy procedure. Patient was 
counseled as to the importance of her steroid treatment in 
preparation for thymectomy. She was started on ranitidine 75 mg 
PO BID for gut protection while on steroids and instructed to 
continue taking this for the duration of her steroid treatment. 

Patient was also given a trial dose of pyridostigmine 30 mg. She 
did experience possibly some slight benefit with the 
pyridostigmine but also reported some nausea which was somewhat 
bothersome. She was discharged with a prescription for 
pyridostigmine 30 mg TID (q6h during waking hours) and 
instructed that she may take this at home for potential 
symptomatic benefit while awaiting response to steroid 
treatment. Patient reported that she may defer taking this due 
to nausea.  

The team updated her psychiatrist, Dr. ___, about the 
patient's diagnosis and treatment plan including steroid 
treatment. Dr. ___ will continue to manage her psychiatric 
medications. We defer to him to make any changes in her 
psychiatric medications. Dr. ___ instructed Mr. ___ to 
discontinue her Viibryd, and we did not re-start this 
medication. 

Upon starting steroids, she had no adverse side effects on the 
10 mg daily. She was discharged in stable condition and with 
proper education about her diagnosis and next steps. For any 
questions she or her providers have, she can follow up with her 
outpatient neurologist Dr. ___, or her thoracic surgeon, 
Dr. ___.  

Transitional Issues:
1. The steroid course the patient will be on is as below 
(up-titration plan to goal dose prednisone 60 mg PO daily):  
Prednisone 10 mg every morning until ___: begin taking 20 mg every morning (until ___: begin taking 30 mg every morning (until ___: begin taking 40 mg every morning until ___ 
___: begin taking 50 mg every morning until ___ 
___: begin taking 60 mg every morning. Patient will continue 
taking this dose until  instructed to do otherwise.  

2. Ranitidine 75 mg PO BID for gut protection while on steroids
3. Pyridostigmine 30 mg PO TID while awake 
4. Patient to f/u with Dr. ___, thoracic surgeon, in 
about two weeks. She was instructed to call to schedule an 
appointment
5. Patient to follow up with Dr. ___, neurologist
6. Patient to continue to follow up with her psychiatrist and 
PCP
 
___ on ___:
Viibryd 30 mg Qam, 30 mg Qpm
Lamictal 300 mg QD
liothyronine 15 mg QD
 
Discharge Medications:
1. LaMOTrigine 300 mg PO DAILY 
2. Liothyronine Sodium 15 mcg PO DAILY 
3. PredniSONE 10 mg PO DAILY Duration: until discontinued
Please increase by 10 mg every ___ to a goal dose of 60 
mg.  
RX *prednisone 10 mg ___ tablet(s) by mouth daily Disp #*180 
Tablet Refills:*2
4. Pyridostigmine Bromide 30 mg PO TID 
RX *pyridostigmine bromide 60 mg 0.5 (One half) tablet(s) by 
mouth every ___ hours while awake Disp #*45 Tablet Refills:*2
5. Ranitidine 75 mg PO BID 
Please take for gut protection while you are on steroids  
RX *ranitidine HCl 75 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Myasthenia ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were recently admitted to the ___ Neurology team for an 
acute episode of blurred/double vision. While you were here, we 
continued to treat you with all your usual home medications 
(except Viibryd), and we gave you medication to control your 
pain and nausea. You had extensive imaging of your brain and a 
lumbar puncture which did not reveal any abnormalities. 

Your team noticed that your symptoms were worsened with 
prolonged eye movements. As a result, you also underwent workup 
for a condition known as Myasthenia ___ given your symptoms. 
We performed a tensilon test which was positive (showing a 
response to the tensilon) and can be seen in Myasthenia ___. 
In addition, a CT scan of your chest revealed a soft tissue 
growth that suggests a possible "thymoma," which may be the 
cause of your condition. At this point, the thoracic surgery 
team was consulted and came to speak with you about surgery to 
remove this growth. 

Please continue taking all your medications as normal. In 
addition, please take your steroid course as follows:
10 mg every morning until ___
20 mg every morning from ___ until ___
30 mg every morning from ___ until ___
40 mg every morning from ___ until ___ 
50 mg every morning from ___ until ___ 
60 mg every morning starting on ___
Continue taking 60 mg by mouth every morning until you are told 
to discontinue. 
You will also take ranitidine (Zantac) 75 mg by mouth twice 
daily while you are taking the steroids in order to protect your 
stomach. You should continue this for as long as you are taking 
steroids. 
You should also take your pyridostigmine 30 mg three times a day 
while awake (ie. 7 AM, 12 ___, 5 ___. This should help with your 
double vision.  

Until your vision improves, you may use an eye patch 
(alternating between eyes) to help with your vision. You will 
have a follow up neurology appointment with Dr. ___ on 
___ at 4:30 ___, and an appointment with your thoracic 
surgery team by calling Dr. ___ office at: ___. You 
can schedule your outpatient thymectomy by calling this number. 

It was a pleasure taking part in your care!

-Your ___ Neurology Team 
 
Followup Instructions:
___